US03950333
Reacting N-cyano-N'-[2-(2-benzimidazolylmethylthio)ethyl]-S-methylisothiourea with ethylamine by the procedure of Example 4 gives N-[2-(2-benzimidazolylmethylthio)ethyl]-N'-cyano-N"-ethylguanidine.

reactant | N-cyano-N'-[2-(2-benzimidazolylmethylthio)ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC=1NC2=C(N1)C=CC=C2 | C13H15N5S2
reactant | ethylamine | C(C)N | C2H7N
product | N-[2-(2-benzimidazolylmethylthio)ethyl]-N'-cyano-N"-ethylguanidine | N1=C(NC2=C1C=CC=C2)CSCCNC(=NCC)NC#N | C14H18N6S
